US06706716B2
8-{2-[4-(2,5-Difluorophenyl)piperazin-1-yl]ethyl}-8-azaspiro[4.5]decane-7,9-dione
A mixture of 1-(2,5-difluorophenyl)piperazine (100 mg, 0.51 mmol) and 8-(2-chloroethyl)-8-azaspiro[4.5]decane-7,9-dione (100 mg, 0.44 mmol) was heated with stirring at 160° C. for 5 hours. The residue was dissolved in methanol, transferred to a preparative thin layer chromatographic plate (silica gel), and eluted with ethyl acetate/hexane (1:1). A band at Rf=0.7 was removed and rinsed with chloroform/methanol (4:1). The solvent was removed, giving the title compound as a pale yellow oil. 1H NMR (300 MHz, CDCl3) δ6.99-6.89 (11-line m, 1H), 6.65-6.52 (m, 2H), 3.95 (t, 2H, J=6.5 Hz), 3.03 (t, 4H, J=4.7 Hz), 2.66 (t, 4H, J=4.7 Hz), 2.60 (s, 4H), 2.54 (t, 2H, J=6.6 Hz), 1.74-1.69 (m, 4H), 1.55-1.51 (m, 4H); ESI-MS m/z 392 (MH+). The title compound was dissolved in ether and precipitated by addition of 1N HCl in ether, giving a white solid (64.9 mg, 0.15 mmol, 35%): mp 237-239° C., Anal. Calcd. for C21H27N3F2O2·HCl: C, 58.94; H, 6.59; N, 9.82; F, 8.88. Found: C, 58.70; H, 6.46; N, 9.68; F, 9.00.

reactant | 1-(2,5-difluorophenyl)piperazine | 0.51 mmol, 100 mg | FC1=C(C=C(C=C1)F)N1CCNCC1 | C10H12F2N2
reactant | 8-(2-chloroethyl)-8-azaspiro[4.5]decane-7,9-dione | 0.44 mmol, 100 mg | ClCCN1C(CC2(CCCC2)CC1=O)=O | C11H16ClNO2
solvent | methanol | CO | CH4O
product | 8-{2-[4-(2,5-Difluorophenyl)piperazin-1-yl]ethyl}-8-azaspiro[4.5]decane-7,9-dione | FC1=C(C=C(C=C1)F)N1CCN(CC1)CCN1C(CC2(CCCC2)CC1=O)=O | C21H27F2N3O2
